US07893048B2
{4-[(2R,3R)-3-[2-(2,3-Dihydro-benzofuran-6-yl)-2-oxo-ethylsulfanyl]-1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetic acid
{4-[(2R,3R)-3-[2-(2,3-Dihydro-benzofuran-6-yl)-2-oxo-ethylsulfanyl]1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetic acid tert-butyl ester (77 mg, 0.137 mmol) was dissolved in formic acid (3 mL) and the solution was stirred for 1 h at room temperature. The solvent was removed under reduced pressure and the residue was dissolved in DCM. The solution was washed with water and then concentrated under reduced pressure. The residue was freeze-dried from MeCN/water to give the title compound.

reactant | {4-[(2R,3R)-3-[2-(2,3-Dihydro-benzofuran-6-yl)-2-oxo-ethylsulfanyl]1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetic acid tert-butyl ester | 0.137 mmol, 77 mg | C(C)(C)(C)OC(COC1=CC=C(C=C1)[C@H]1N(C([C@@H]1SCC(=O)C1=CC2=C(CCO2)C=C1)=O)C1=CC=C(C=C1)F)=O | C31H30FNO6S
solvent | formic acid | 3 mL | C(=O)O | CH2O2
product | {4-[(2R,3R)-3-[2-(2,3-Dihydro-benzofuran-6-yl)-2-oxo-ethylsulfanyl]-1-(4-fluoro-phenyl)-4-oxo-azetidin-2-yl]-phenoxy}-acetic acid | O1CCC2=C1C=C(C=C2)C(CS[C@@H]2[C@H](N(C2=O)C2=CC=C(C=C2)F)C2=CC=C(OCC(=O)O)C=C2)=O | C27H22FNO6S
